US08114902B2
(3-2) Synthesis of 2-amino-2-{2-[2′-fluoro-4′-(phenylthio)biphenyl-4-yl]ethyl}propane-1,3-diol hydrochloride
N-(5-{2-[2′-Fluoro-4′-(phenylthio)biphenyl-4-yl]ethyl}-2,2-dimethyl-1,3-dioxan-5-yl)acetamide (468 mg) was dissolved in methanol (6 mL), concentrated hydrochloric acid (3 mL) was added, and the mixture was stirred at 70° C. for 3.5 hr. The reaction mixture was concentrated, and the residual crude crystals were suspended in diisopropyl ether and collected by filtration to give the title compound (329 mg) as white crystals.

reactant | N-(5-{2-[2′-Fluoro-4′-(phenylthio)biphenyl-4-yl]ethyl}-2,2-dimethyl-1,3-dioxan-5-yl)acetamide | 468 mg | FC1=C(C=CC(=C1)SC1=CC=CC=C1)C1=CC=C(C=C1)CCC1(COC(OC1)(C)C)NC(C)=O | C28H30FNO3S
reactant | hydrochloric acid | 3 mL | Cl | ClH
solvent | methanol | 6 mL | CO | CH4O
product | 2-amino-2-{2-[2′-fluoro-4′-(phenylthio)biphenyl-4-yl]ethyl}propane-1,3-diol hydrochloride | 329 mg | Cl.NC(CO)(CO)CCC1=CC=C(C=C1)C1=C(C=C(C=C1)SC1=CC=CC=C1)F | InChI=1S/C23H24FNO2S.ClH/c24-22-14-20(28-19-4-2-1-3-5-19)10-11-21(22)18-8-6-17(7-9-18)12-13-23(25,15-26)16-27;/h1-11,14,26-27H,12-13,15-16,25H2;1H
